data/mechanisms/records/IMS9-EQ9.37c.json
{"mechanism_id": "IMS9-EQ9.37c", "species": [{"species_id": "isopropyl_pentyl_ether_molecular_ion", "mapped_smiles": "[CH2:1]([O+:6][CH:7]([CH2:8][1H:11])[CH3:9])[CH2:2][CH2:3][CH2:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "isopropyl_oxocarbenium_mz73", "mapped_smiles": "[CH2:1]=[O+:6][CH:7]([CH2:8][1H:11])[CH3:9]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "butyl_radical", "mapped_smiles": "[CH2:2][CH2:3][CH2:4][CH3:5]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_formaldehyde_mz31", "mapped_smiles": "[CH2:1]=[O+:6][1H:11]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "propene_neutral", "mapped_smiles": "[CH2:8]=[CH:7][CH3:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["isopropyl_pentyl_ether_molecular_ion"]}, {"state_id": "state_mz73", "species_ids": ["isopropyl_oxocarbenium_mz73", "butyl_radical"]}, {"state_id": "state_mz31", "species_ids": ["protonated_formaldehyde_mz31", "propene_neutral", "butyl_radical"]}], "steps": [{"step_id": "step_alpha_butyl_loss", "from_state": "state_precursor", "to_state": "state_mz73", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_propene_loss", "from_state": "state_mz73", "to_state": "state_mz31", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [8, 11]}, "target": {"type": "bond", "atom_maps": [6, 11]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_butyl_loss", "support_type": "textbook_proposed", "locator": {"page": 262, "equation": "9.37", "figure": null, "panel": null, "section": "9.6 Ethers, 'Aliphatic ethers' (second arrow labelled alpha)"}, "confidence": 0.75, "curator_note": "The arrow labelled 'alpha' to 'm/z 73'. The other radical-site cleavage: the same oxygen radical site, but now the PENTYL chain's C1-C2 bond breaks, expelling the butyl radical (C4H9., 57.0704) and leaving CH2=O(+)-CH(CH3)2 (C4H9O+, 73.0648) -- the 'loss of the larger butyl group from the secondary carbon' of the prose. Encoded as the canonical triple, all three moves curator-supplied. ARC COUNT (convention D): ZERO curved arrows in the whole of equation 9.37 -- nine reaction arrows, each carrying only a reaction-type label (alpha, i, rH, and one 'i, - C2H4'), and not one fishhook or two-electron arc on any structure. Every electron move in every record of this equation is therefore curator-supplied. Any record of eq 9.37 claiming drawn electron-pushing would be fabricated. SUBSTRATE: isopropyl pentyl ether, C5H11-O-CH(CH3)2, drawn skeletally with '+.' on the oxygen. The equation carries NO label on the substrate; the compound and its molecular ion are named on the FACING page (PDF 272, printed p261): 'The important primary cleavages of isopropyl pentyl ether (Djerassi and Fenselau 1965) are due to these two types of cleavage (Equation 9.37)', with Figure 9.14 there showing '130M+.'. C8H18O, M+. computed 130.1352 -- and 'm/z 130' is therefore NOT printed in this equation; it is stored as the precursor_mz on the authority of the facing page and is not claimed as a printed label. ATOM MAPS: 1-5 = the pentyl carbons (1 = the CH2 bonded to oxygen, 5 = the terminal methyl), 6 = the oxygen, 7 = the isopropyl methine, 8 and 9 = its two methyls; 10, 11, 12 = the migrating hydrogens where a record needs one explicit. 'THESE TWO TYPES OF CLEAVAGE' names the two channel families the equation draws: alpha-cleavage (the book's radical-site reaction, giving m/z 115 and 73) and charge-site cleavage i (giving m/z 43 and 71). The prose adds the abundance ordering: 'the most abundant ions, C3H7+ and C5H11+, are produced by charge-site-initiated reactions', and 'For the competing alpha-cleavages, the loss of methyl from the tertiary carbon yielding m/z 115 is almost as favorable as the loss of the larger butyl group from the secondary carbon.'"}, {"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_propene_loss", "support_type": "textbook_proposed", "locator": {"page": 262, "equation": "9.37", "figure": null, "panel": null, "section": "9.6 Ethers (arrow labelled 'rH' from m/z 73)"}, "confidence": 0.75, "curator_note": "The 'rH' arrow off m/z 73, products drawn out as the printed formula 'C3H6' plus the ion CH2=O(+)H labelled 'm/z 31'. Same two-electron pattern as the 115 -> 45 step of IMS9-EQ9.37a, on the other side of the oxygen: a hydrogen of the isopropyl group transfers to the oxygen while the O-C7 bond breaks, propene leaves neutral (42.0470) and the ion is protonated formaldehyde (31.0178). Two curator-supplied moves; no arcs drawn, and the page draws no hydrogen on this structure either, so the donor position (map 11, on an isopropyl methyl) is the curator's -- it is the only placement that yields the printed propene. The prose covers this ion family: 'Secondary product ions in the same CnH2n+1O+ ion series (m/z 31, 45, 59, ...) can be formed by rearrangement loss of an olefin molecule from these ions'. MEASUREMENTS (convention F): the page labels SIX m/z values -- 115, 45, 73, 31, 43, 71 -- and every one matches the exact mass computed from the structure encoded here (115.1117, 45.0335, 73.0648, 31.0178, 43.0542, 71.0855; RDKit ExactMolWt, formal charge applied). Only THREE neutral losses are printed ('C5H10' and 'C3H6' as product formulas, and '- C2H4' under one arrow); the others (CH3., C4H9., C5H11O., C3H7O., CH3CHO, CH2O) are curator inferences that close the mass balance exactly and are NOT quoted as printed text. No percentage is printed in the equation; Figure 9.14 on the facing page carries the abundances (43 as base peak, 71 strong, 115 and 130 weak) but it is a figure on another page, so nothing is stored as relative_intensity. *** m/z 43 IS THE ISOPROPYL CATION C3H7+ (43.0542), NOT THE ACETYL CATION C2H3O+ (43.0178). *** The drawn structure contains no oxygen at all -- one central vertex, two methyls, a '+' -- and the prose names C3H7+ explicitly. The same nominal mass means the opposite thing two pages earlier in eq 9.35, where m/z 43 IS the acetyl cation; that contrast is why this is spelled out."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 130.1352, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_73", "species_id": "isopropyl_oxocarbenium_mz73", "step_id": "step_alpha_butyl_loss", "observed_mz": 73.0648, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}, {"peak_id": "peak_31", "species_id": "protonated_formaldehyde_mz31", "step_id": "step_rH_propene_loss", "observed_mz": 31.0178, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
